US07144899B2
Step C: N2-(tert-butoxycarbonyl)-N1-[(1S)-1-({[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]amino}carbonyl)propyl]-4-methyl-D-leucinamide
A mixture of Boc-D-t-butyl-alanine (49 mg, 0.20 mmol), (2S)-2-amino-N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]butanamide (66 mg, 0.20 mg), HOAt (27 mg, 0.20 mmol), EDC (57 mg, 0.30 mmol), and Et3N (28 μL, 0.20 mmol) in 1.0 mL of DMF was stirred at rt overnight. A small amount of MeOH was used to aid in dissolution. Solvent was removed in vacuo to give the title compound, which was carried on directly to deprotection. LCMS (M+H): 521.2.

reactant | Boc-D-t-butyl-alanine | 0.20 mmol, 49 mg | C(=O)(OC(C)(C)C)N[C@H](CC(C)(C)C)C(=O)O | C12H23NO4
reactant | (2S)-2-amino-N-[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]butanamide | 66 mg | N[C@H](C(=O)NCC1=C(C=CC(=C1)Cl)N1N=CN=C1)CC | C13H16ClN5O
reactant | HOAt | 0.20 mmol, 27 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.30 mmol, 57 mg
reactant | Et3N | 0.20 mmol, 28 μL | CCN(CC)CC | C6H15N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | N2-(tert-butoxycarbonyl)-N1-[(1S)-1-({[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]amino}carbonyl)propyl]-4-methyl-D-leucinamide | C(C)(C)(C)OC(=O)N[C@H](CC(C)(C)C)C(=O)N[C@@H](CC)C(=O)NCC1=C(C=CC(=C1)Cl)N1N=CN=C1 | C25H37ClN6O4
